data/mechanism_extracts/Synthesis/10.1055_a-2025-1822.json
{"doi": "10.1055_a-2025-1822", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-bromo-alkoxylation of alkenes using CH2Br2 as bromine source and alcohol as alkoxy source/solvent in an undivided cell to afford β-bromoethers", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis", "cation_initiated"], "electrochemical_role": "Anodic oxidation of Br- (released from CH2Br2 C-X cleavage) to Br• radical, which adds to the alkene; the resulting C-radical is further oxidized at the anode to a benzylic carbocation; at the cathode, protons are reduced to H• (H2 evolution) and +CH2Br is reduced to give CH3Br", "key_intermediates": [{"name": "bromine radical (Br•)", "smiles": "[Br]", "role": "reactive"}, {"name": "+CH2Br bromomethyl cation from CH2Br2 C-X cleavage", "smiles": "[CH2+]Br", "role": "transient"}, {"name": "benzylic C-centered radical from Br• addition to alkene (II)", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation from anodic oxidation of II (III)", "smiles": null, "role": "reactive"}, {"name": "alkyl oxonium salt from ROH attack on carbocation (IV)", "smiles": null, "role": "transient"}, {"name": "hydrogen radical H• from cathodic reduction of H+", "smiles": "[H]", "role": "transient"}, {"name": "CH3Br byproduct from H•/+CH2Br combination at cathode", "smiles": "CBr", "role": "off_pathway"}], "electron_flow": "C-X bond cleavage of CH2Br2 releases Br- and +CH2Br; anodic oxidation of Br- gives Br• which adds to the alkene to form a benzylic radical; a second anodic oxidation converts this radical to a benzylic carbocation that is trapped by ROH to give an oxonium, which deprotonates to the β-bromoether. At the cathode, H+ is reduced to H• (giving H2) and +CH2Br is reduced to CH3Br.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield of 1a drastically diminished to 45%; BHT-Br adduct detected by GC-MS (m/z = 299), supporting a free-radical (Br•) intermediate"}, {"name": "1,1-diphenylethylene (substrate)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "redox_probe", "observation": "CV oxidation peak at 2.48 V vs Ag/AgCl, higher than CH2Br2 (1.93 V), indicating CH2Br2/Br- is oxidized preferentially"}, {"name": "CH2Br2", "smiles": "BrCBr", "purpose": "redox_probe", "observation": "CV oxidation peak at 1.93 V vs Ag/AgCl, assigned to Br- → Br• oxidation"}, {"name": "no-current control", "smiles": null, "purpose": "other", "observation": "No product formation without applied current, confirming electrochemical nature"}], "evidence_types_used": ["intermediate_trap_BHT", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Cathodic chemistry (H• generation and +CH2Br reduction to CH3Br) is proposed in parallel with the anodic catalytic cycle, making this effectively a paired electrolysis. iPrOH and tBuOH failed as coupling partners, suggesting steric limits on the oxonium/nucleophilic addition step. No KIE or DFT studies were performed."}
